US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxamide
Triethylamine (12 μL, 0.087 mmol) was added to a solution of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine (30 mg, 0.087 mmol) and 4-nitrophenyl chloroformate (18 mg, 0.091 mmol) in tetrahydrofuran (1 mL) at 0° C. After 1 h, 1,3,8-triazaspiro[4.5]decane-2,4-dione (15 mg, 0.091 mmol), triethylamine (48 μL, 0.348 mmol) and N,N-dimethylformamide (1 mL) were added and the mixture heated to 40° C. After 18 h, saturated aqueous sodium carbonate was added and the mixture was extracted with dichloromethane. The organic layer was washed with saturated aqueous sodium bicarbonate (3×), saturated brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography [100% dichloromethane→88% dichloromethane/methanol] gave the title compound (12 mg). MS 541.1955 (M+1).

reactant | Triethylamine | 0.087 mmol, 12 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-amine | 0.087 mmol, 30 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)N | C16H16F5N3
reactant | 4-nitrophenyl chloroformate | 0.091 mmol, 18 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1,3,8-triazaspiro[4.5]decane-2,4-dione | 0.091 mmol, 15 mg | N1C(NC(C12CCNCC2)=O)=O | C7H11N3O2
reactant | triethylamine | 0.348 mmol, 48 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]-2,4-dioxo-1,3,8-triazaspiro[4.5]decane-8-carboxamide | 12 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)CC(F)(F)F)NC(=O)N2CCC1(C(NC(N1)=O)=O)CC2 | C24H25F5N6O3
